US06207693B1
To a solution of 3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-oxopiperidin-1-yl)carbonylpent-1-yloxy]phenyl]-4-[2-(tert-butoxycarbonyl)aminomethyl-1H-benzimidazol-4-yl]carbonylaminobenzamide (150 mg) in methanol (5 ml) was added sodium borohydride (7.52 mg) under an ice bath cooling and the mixture was stirred at the same temperature for 1 hour. The mixture was diluted with chloroform and the solution was washed with water and brine. The organic phase was dried over magnesium sulfate and the solvent was evaporated in vacuo to give N-[2-[5-(4-hydroxypiperidin-1-yl)carbonylpent-1-yloxy]-4-methylphenyl]-3-methoxy-N-methyl-4-[2-(tert-butoxycarbonyl)aminomethyl-1H-benzimidazol-4-yl]carbonylaminobenzamide (150 mg).

reactant | 3-methoxy-N-methyl-N-[4-methyl-2-[5-(4-oxopiperidin-1-yl)carbonylpent-1-yloxy]phenyl]-4-[2-(tert-butoxycarbonyl)aminomethyl-1H-benzimidazol-4-yl]carbonylaminobenzamide | 150 mg | COC=1C=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCC(CC2)=O)C)C=CC1NC(=O)C1=CC=CC=2NC(=NC21)CNC(=O)OC(C)(C)C | C41H50N6O8
reactant | sodium borohydride | 7.52 mg | [BH4-].[Na+]
solvent | methanol | 5 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[2-[5-(4-hydroxypiperidin-1-yl)carbonylpent-1-yloxy]-4-methylphenyl]-3-methoxy-N-methyl-4-[2-(tert-butoxycarbonyl)aminomethyl-1H-benzimidazol-4-yl]carbonylaminobenzamide | 150 mg | OC1CCN(CC1)C(=O)CCCCCOC1=C(C=CC(=C1)C)N(C(C1=CC(=C(C=C1)NC(=O)C1=CC=CC=2NC(=NC21)CNC(=O)OC(C)(C)C)OC)=O)C | C41H52N6O8
